US07008948B2
To a suspension of 2,4-dichloro-purine (2.0 g, 10.6 mmol) in anhydrous ethanol (10 mL) was added 5-methyl-1H-pyrazol-3-yl amine (2.05 g, 21.2 mmol). The resulting mixture was stirred at room temperature for 48 h. The resulting precipitate was collected by filtration, washed with ethanol, and dried under vacuum to afford 1.524 g (58% yield) of (2-chloro-purin-4-yl)-(5-methyl-1H-pyrazol-3-yl)-amine which was used in the next step without further purification. To a solution of (2-chloro-purin-4-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (200 mg, 0.80 mmol) was added 4-methylpiperidine (4 mL, 8.01 mmol) and the reaction mixture heated at reflux overnight. The solvent was evaporated and the residue dissolved in a mixture EtOH:water (1:3, 4 mL). Potassium carbonate (57 mg, 0.41 mmol) was added and the mixture was stirred at room temperature for 2 hours. The resulting suspension was filtered, washed with water (×2) and rinsed with Et2O (×2) to afford IV-33 as a white solid (225 mg, 90%): mp >300° C.;

reactant | 2,4-dichloro-purine | 10.6 mmol, 2.0 g | ClC=1N=CC2=NC=NC2(N1)Cl | C5H2Cl2N4
reactant | 5-methyl-1H-pyrazol-3-yl amine | 21.2 mmol, 2.05 g | CC1=CC(=NN1)N | C4H7N3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (2-chloro-purin-4-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 1.524 g, 58% yield | ClC=1N=CC2=NC=NC2(N1)NC1=NNC(=C1)C | C9H8ClN7
